US08431563B2
Following the procedure outlined for Example 69, 3-thiopheneboronic acid (17.8 mg, 0.139 mmol, Sigma-Aldrich, St. Louis, Mo.) was coupled to 2-(3-bromo-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol, the reaction mixture was filtered, concentrated, and the residue was subjected to reverse-phase preparative HPLC using a Phenomenex Gemini-NX (C18 110 A column (100×21 mm, 5 μm) eluting with 0.1% NH4OH in CH3CN/H2O (5% to 95% over 8 min)) to afford 1,1,1,3,3,3-hexafluoro-2-(3-(3-thiophenyl)-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol. 1H NMR (400 MHz, DMSO-d6) δ 8.09 (d, J=6.2 Hz, 1H), 7.69-7.62 (m, 2H), 7.53 (m, 3H), 7.38-7.29 (m, 2H), 7.19 (d, J=9.7 Hz, 1H), 2.99-2.94 (m, 4H), 2.93-2.87 (m, 4H). m/z (ESI, +ve ion) 557.0 (M+H)+. GK-GKRP EC50 (NADPH-coupled)=3.50 μM; GK-GKRP EC50 (LC MS/MS)=1.90 μM.

reactant | 3-thiopheneboronic acid | 0.139 mmol, 17.8 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | 2-(3-bromo-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | BrC=1C=C(C=CC1N1CCN(CC1)S(=O)(=O)C=1SC=CC1)C(C(F)(F)F)(C(F)(F)F)O | C17H15BrF6N2O3S2
product | 1,1,1,3,3,3-hexafluoro-2-(3-(3-thiophenyl)-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol | FC(C(C(F)(F)F)(O)C1=CC(=C(C=C1)N1CCN(CC1)S(=O)(=O)C=1SC=CC1)C1=CSC=C1)(F)F | C21H18F6N2O3S3
